US04064134
B. Ethyl 3-(3-Amino-2-pyridyl)carbazate Hydrochloride
The ethyl 3-(3-nitro-2-pyridyl)carbazate hydrochloride 34 g (0.13 mole) was slurried in 300 ml of isopropanol and treated with 4.4 g of 5% pd/C (50% H2O) in 40 ml of isopropanol. The reaction mixture was subjected to hydrogenation at 50 psig. A 24 psig drop at 27°0 was observed (theory 30 No. at 27°), and the mixture was cooled overnight. The crystalline product was collected along with the catalyst. The product was taken up in 300 ml of hot methanol, the catalyst filtered, and the product precipitated from the filtrate, m.p. 217°-219° dec. Yield: 11 g (37%).

reactant | ethyl 3-(3-nitro-2-pyridyl)carbazate hydrochloride | 0.13 mole, 34 g | Cl.[N+](=O)([O-])C=1C(=NC=CC1)NNC(=O)OCC
reactant | H2O | O | H2O
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
product | Ethyl 3-(3-Amino-2-pyridyl)carbazate Hydrochloride | Cl.NC=1C(=NC=CC1)NNC(=O)OCC | InChI=1S/C8H12N4O2.ClH/c1-2-14-8(13)12-11-7-6(9)4-3-5-10-7;/h3-5H,2,9H2,1H3,(H,10,11)(H,12,13);1H
